US08202999B2
Compound 1 was hydrolyzed by heating it in a solution of LiOH to yield 4′-(2,6-difluoro-benzoylamino)-6-methyl-biphenyl-3-carboxylic acid. A mixture of 4′-(2,6-difluoro-benzoylamino)-6-methyl-biphenyl-3-carboxylic acid (800 mg, 2.2 mmol), 2,2-diethoxy-ethylamine (0.32 mL, 2.2. mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide (EDC) (5 mmol) in dry DMF (5 mL) was stirred at room temperature for 24 h. The mixture was diluted with water (20 mL) and extracted with ethyl acetate (EtOAc) (2×20 mL). The organic extract was washed with water and dried. The oil obtained on concentration of the organic layer was purified by flash chromatograghed on silica gel to give 4′-(2,6-difluoro-benzoylamino)-6-methyl-biphenyl-3-carboxylic acid (2,2-diethoxy-ethyl)-amide as colorless oil (0.68 g).

reactant | 4′-(2,6-difluoro-benzoylamino)-6-methyl-biphenyl-3-carboxylic acid | 2.2 mmol, 800 mg | FC1=C(C(=O)NC2=CC=C(C=C2)C2=CC(=CC=C2C)C(=O)O)C(=CC=C1)F | C21H15F2NO3
reactant | 2,2-diethoxy-ethylamine | 0.32 mL | C(C)OC(CN)OCC | C6H15NO2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide | 5 mmol | CN(CCCN=C=NCC)C | C8H17N3
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | water | 20 mL | O | H2O
product | 4′-(2,6-difluoro-benzoylamino)-6-methyl-biphenyl-3-carboxylic acid (2,2-diethoxy-ethyl)-amide | 0.68 g | C(C)OC(CNC(=O)C=1C=C(C(=CC1)C)C1=CC=C(C=C1)NC(C1=C(C=CC=C1F)F)=O)OCC | C27H28F2N2O4
